US06169107A
A mixture of 0.67 g (1.77 mmol) of ethyl 4-chloro-6-[4-(chloromethyl)phenoxy]-1-methyl-2-indolecarboxylate, 0.17 g (2.66 mmol) of sodium azide and 30 ml of dimethylformamide was stirred at room temperature for 3 hours. The reaction mixture was poured onto ice water followed by extracting twice with ethyl acetate. The combined extracts were washed with saturated ammonium chloride aqueous solution and then with saturated sodium chloride aqueous solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. To the residue were added 50 ml of ethyl acetate, 0.10 g of 10% palladium/carbon and 0.77 g (3.54 mmol) of di-tert-butyl dicarbonate. The mixture was catalytically hydrogenated at ambient temperature under normal pressure. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was isolated and purified by silica gel column chromatography to give 0.57 g (70.1%) of ethyl 4-chloro-6-[4-(tert-butoxycarbonylaminomethyl)phenoxy]-1-methyl-2-indolecarboxylate.

reactant | ethyl 4-chloro-6-[4-(chloromethyl)phenoxy]-1-methyl-2-indolecarboxylate | 1.77 mmol, 0.67 g | ClC1=C2C=C(N(C2=CC(=C1)OC1=CC=C(C=C1)CCl)C)C(=O)OCC | C19H17Cl2NO3
reactant | sodium azide | 2.66 mmol, 0.17 g | [N-]=[N+]=[N-].[Na+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | di-tert-butyl dicarbonate | 3.54 mmol, 0.77 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium/carbon | 0.10 g | [Pd] | Pd
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-chloro-6-[4-(tert-butoxycarbonylaminomethyl)phenoxy]-1-methyl-2-indolecarboxylate | 0.57 g, 70.1% | ClC1=C2C=C(N(C2=CC(=C1)OC1=CC=C(C=C1)CNC(=O)OC(C)(C)C)C)C(=O)OCC | C24H27ClN2O5
